US04140713
c. 2-Fluoro-5-[1-hydroxy-2-[[-3-(4-fluorophenyl)-1-methyl propyl]amino]ethyl]benzenesulphonamide hydrochloride
In a similar manner 2-fluoro-5-[[bis(phenylmethyl)amino] acetyl]-benzenesulphonamide (2.5 g) and 4-phenyl-butan-2-one (5 g) were converted into 2-fluoro-5-[1-hydroxy-2-[(1-methyl-3-phenylpropyl)amino]ethyl]benzenesulphonamide, hydrochloride, 0.4 g, m.p. BO°-95°.

reactant | 2-fluoro-5-[[bis(phenylmethyl)amino] acetyl]-benzenesulphonamide | 2.5 g | FC1=C(C=C(C=C1)C(CN(CC1=CC=CC=C1)CC1=CC=CC=C1)=O)S(=O)(=O)N | C22H21FN2O3S
reactant | 4-phenyl-butan-2-one | 5 g | C1(=CC=CC=C1)CCC(C)=O | C10H12O
reactant | 2-fluoro-5-[1-hydroxy-2-[(1-methyl-3-phenylpropyl)amino]ethyl]benzenesulphonamide, hydrochloride | Cl.FC1=C(C=C(C=C1)C(CNC(CCC1=CC=CC=C1)C)O)S(=O)(=O)N
product | 2-Fluoro-5-[1-hydroxy-2-[[-3-(4-fluorophenyl)-1-methyl propyl]amino]ethyl]benzenesulphonamide hydrochloride | Cl.FC1=C(C=C(C=C1)C(CNC(CCC1=CC=C(C=C1)F)C)O)S(=O)(=O)N | InChI=1S/C18H22F2N2O3S.ClH/c1-12(2-3-13-4-7-15(19)8-5-13)22-11-17(23)14-6-9-16(20)18(10-14)26(21,24)25;/h4-10,12,17,22-23H,2-3,11H2,1H3,(H2,21,24,25);1H
